US07670613B2
2-Chloro-4-(3-hydroxy-cyclohexyloxy)-benzonitrile
1,3-Cyclohexanediol (116 mg, 1.0 mmole) was added to a flame dried round bottom flask under nitrogen. The flask was then charged with 5 mL of dry acetonitrile, 26 mg of potassium fluoride on alumina (0.1 mmol), and 4-fluoro-2-chloro-benzonitrile (155 mg, 1.0 mmole) and heated at reflux for 16 h. Diethyl ether (15 ml) was added to the reaction mixture, which was then extracted with water (2×), dried (MgSO4) and concentrated. Purification using a chromatotron, eluting with 10% EtOAc/hex (ethylacetate and hexane) provided 22 mg of the title compound. GC/MS: 251 (M/Z for C13H14ClNO2).

reactant | 1,3-Cyclohexanediol | 1.0 mmole, 116 mg | C1(CC(CCC1)O)O | C6H12O2
reactant | acetonitrile | 5 mL | C(C)#N | C2H3N
reactant | potassium fluoride on alumina | 0.1 mmol, 26 mg | [F-].[K+]
reactant | 4-fluoro-2-chloro-benzonitrile | 1.0 mmole, 155 mg | FC1=CC(=C(C#N)C=C1)Cl | C7H3ClFN
solvent | Diethyl ether | 15 ml | C(C)OCC | C4H10O
product | 2-Chloro-4-(3-hydroxy-cyclohexyloxy)-benzonitrile | 22 mg | ClC1=C(C#N)C=CC(=C1)OC1CC(CCC1)O | C13H14ClNO2
